US06613942B1
A mixture of 2,3-difluoro-4-cyanophenol (1 g, 6.45 mmol) in water (8 mL), H2SO4 (8 mL), and acetic acid (8 mL) was refluxed for 48 hours. The solvents were removed by rotary evaporation to give a slurry which was poured onto ice. The product precipitated out of solution and filtered. The solid was washed with water and dried to give 2,3-difluoro-4-hydroxybenzoic acid (800 mg, 71%).

reactant | 2,3-difluoro-4-cyanophenol | 6.45 mmol, 1 g | FC1=C(C=CC(=C1F)C#N)O | C7H3F2NO
reactant | acetic acid | 8 mL | C(C)(=O)O | C2H4O2
solvent | water | 8 mL | O | H2O
solvent | H2SO4 | 8 mL | OS(=O)(=O)O | H2O4S
product | 2,3-difluoro-4-hydroxybenzoic acid | 800 mg, 71% | FC1=C(C(=O)O)C=CC(=C1F)O | C7H4F2O3
